US06225330B1
2-Methoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one:
To a homogeneous mixture of phosphorus pentoxide and 85% phosphorus acid at 100° C., was added 5-(3-methoxyphenyl)pentanoic acid in small portions over 20 minutes. The vigorously stirred mixture was heated at 100° C. for 6 hours. Then it was poured on ice-water, and extracted with ether (3 times). The organic phase was washed with water and dried over anhydrous sodium sulfate. Evaporation of the combined organic phase afforded a light yellow oil in more than 95% yield; 1H NMR δ 7.77 (d, 1H, J=8.6 Hz), 6.80 (dd, 1H, J=2.5, 8.6 Hz), 6.69 (d, 1H, J=2.5 Hz), 3.84 (s, 3H), 2.90 (t, 2H, J=6.2 Hz), 2.71 (t, 2H, J=5.9 Hz), 1.91-1.76 (m, 4H).

reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | phosphorus | [P] | P
reactant | 5-(3-methoxyphenyl)pentanoic acid | COC=1C=C(C=CC1)CCCCC(=O)O | C12H16O3
product | 2-Methoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one | more than 95% yield | COC=1C=CC2=C(CCCCC2=O)C1 | C12H14O2
